US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (1-1,3,4-thiadiazol-2-yl-cyclopropyl)-amide (12)
To a suspension of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (90.0 mg, 0.350 mmol) in DMF (2 mL) is added N,N-diisopropylethylamine (243 μL, 1.40 mmol) and HBTU (159 mg, 0.420 mmol). After 20 minutes, a solution of 1-1,3,4-thiadiazol-2-yl-cyclopropylamine (51.0 mg, 0.361 mmol) in DMF (1 mL) is added and the mixture is stirred at room temperature overnight. The reaction mixture is poured into saturated aqueous sodium bicarbonate (50 mL), ethyl acetate (30 mL) is added and phases are separated. The aqueous layer is treated with brine and extracted with ethyl acetate (3×20 mL). The combined organic layers are concentrated in vacuo. The crude material is purified by silica gel chromatography eluting with a gradient of 0-10% methanol in methylene chloride to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid | 0.350 mmol, 90.0 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)O | C13H8FN3O2
reactant | N,N-diisopropylethylamine | 1.40 mmol, 243 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.420 mmol, 159 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-1,3,4-thiadiazol-2-yl-cyclopropylamine | 0.361 mmol, 51.0 mg | S1C(=NN=C1)C1(CC1)N | C5H7N3S
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (1-1,3,4-thiadiazol-2-yl-cyclopropyl)-amide | S1C(=NN=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C18H13FN6OS
